US08497281B2
(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-indazol-5-yl)-methanone
The title compound is prepared from 1H-indazole-5-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 31% of theory; LC (method 4): tR=1.91 min; Mass spectrum (ESI+): m/z=318 [M+H]+.

reactant | 1H-indazole-5-carboxylic acid | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-indazol-5-yl)-methanone | Yield: 31% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C=2C=C1C=NNC1=CC2 | C20H19N3O
